US05332831
Ethyl α-amino-β-oxocyclopropanepropanoate hydrochloride
Acetyl chloride (15.35 ml, 16.88 g) was added to a cooled solution of ethyl α-(hydroxyimino)-β-oxocyclopropanepropanoate (20 g) in absolute ethanol (250 ml) before being added to a suspension of 5% platinum on carbon (1.85 g) in absolute ethanol (150 ml). The stirred mixture was then hydrogenated at room temperature and pressure for 5 h. The catalyst was filtered off through a pad of hyflo and the filtrate concentrated in vacuo to give, after azeotroping with toluene (2×80 ml), an off-white solid. This was triturated with ether (500 ml) to give the title compound (14.5 g) as a white solid. m.p. 196°-197° C.

reactant | Acetyl chloride | 15.35 ml, 16.88 g | C(C)(=O)Cl | C2H3ClO
reactant | ethyl α-(hydroxyimino)-β-oxocyclopropanepropanoate | 20 g | ON=C(C(=O)OCC)C(C1CC1)=O | C8H11NO4
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 1.85 g | [Pt] | Pt
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | Ethyl α-amino-β-oxocyclopropanepropanoate hydrochloride | 14.5 g | Cl.NC(C(=O)OCC)C(C1CC1)=O | InChI=1S/C8H13NO3.ClH/c1-2-12-8(11)6(9)7(10)5-3-4-5;/h5-6H,2-4,9H2,1H3;1H
